US04180574
A solution of 5.6 g. of benzoyl chloride was added to a stirred solution of 1.96 g. of N-propynyl piperazine, 4.04 g. of triethylamine and 100 ml. of chloroform. The mixture was stirred 4 hours, filtered and the filtrate washed in sequence with 100 ml. of water, 100 ml. of 5% aqueous potassium carbonate and 100 ml. of water. The chloroform solution was then evaporated in vacuo to produce a white solid. Crystallization from cyclohexane produced the expected white crystals of N'-benzoyl-N-propynyl piperazine, m.p. 94°-5° C.

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-propynyl piperazine | C(#CC)N1CCNCC1 | C7H12N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N'-benzoyl-N-propynyl piperazine | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C#CC | C14H16N2O
